US08877742B2
tert-butyl 3-(4-bromo-3-(5-fluoro-1-methylindolin-6-yl)-1H-pyrrolo[2,3-b]pyridin-1-yl)azetidine-1-carboxylate
To a mixture of tert-butyl 3-(4-bromo-3-iodo-1H-pyrrolo[2,3-b]pyridin-1-yl)azetidine-1-carboxylate (D31) (118 mg, 0.247 mmol), 5-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indoline, hydrochloride (85 mg, 0.271 mmol) in DME (2 mL) and MeOH (0.222 mL) was added bis(triphenylphosphine)palladium(II) chloride (17.32 mg, 0.025 mmol) and 2M sodium carbonate aq. solution (1.234 mL, 2.468 mmol). The mixture was stirred at 60° C. for 1 hour. The mixture was cooled to RT. Water (30 mL) was added and was extracted with ethyl acetate (3×50 mL). The combined organics were dried over magnesium sulfate, filtered and solvent removed in vacuo to give a residue which was purified on normal phase chromatography eluting with ethyl acetate in cyclohexane (0-50%) to give the title compound (84 mg). LCMS (A): m/z (M+H)+ 501/503, C24H26BrFN4O2 requires 500/502 (acidic).

reactant | tert-butyl 3-(4-bromo-3-iodo-1H-pyrrolo[2,3-b]pyridin-1-yl)azetidine-1-carboxylate | 0.247 mmol, 118 mg | BrC1=C2C(=NC=C1)N(C=C2I)C2CN(C2)C(=O)OC(C)(C)C | C15H17BrIN3O2
reactant | 5-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indoline, hydrochloride | 0.271 mmol, 85 mg | Cl.FC=1C=C2CCN(C2=CC1B1OC(C(O1)(C)C)(C)C)C
reactant | sodium carbonate | 2.468 mmol, 2M, 1.234 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 30 mL | O | H2O
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | MeOH | 0.222 mL | CO | CH4O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.025 mmol, 17.32 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 3-(4-bromo-3-(5-fluoro-1-methylindolin-6-yl)-1H-pyrrolo[2,3-b]pyridin-1-yl)azetidine-1-carboxylate | 84 mg | BrC1=C2C(=NC=C1)N(C=C2C2=C(C=C1CCN(C1=C2)C)F)C2CN(C2)C(=O)OC(C)(C)C | C24H26BrFN4O2
